Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Methocarbamol / Sporanox / Bactrim / Doxycycline / 
Serzone / Vioxx / Vancomycin / GENTAMYCIN
 
Attending: ___.
 
Chief Complaint:
abdominal pain, distension, fever
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo man with HIV (last CD 4 count 539 in ___ on HAART, OSA 
on CPAP who presents 3 days after a recent colonoscopy ___ 
___ with complaint of abdominal pain, distension, fever to 
101 at home.  Reports sx began on ___ (2 days post 
procedure), started to feel vague abdominal discomfort, 
bloating.  The next day noted fever to 101.2 at home, chills, 
worsening abdominal bloating and pain in right abdomen.  Denies 
nausea/vomiting.  Has had regular nonbloody BM.  Has been eating 
regular diet.

In ED, VS notable for T 100.0.  Currently I am not able to find 
documentation of their abdominal exam.  Pt reports  CT scan 
prelim from ED read reported "wall thickening and surrounding 
fat stranding of the proximal descending colon, a region of 
diverticulosis, as well as a 4 x 15 mm hyperdensity, which could 
represent ingested material versus a foreign body related to 
recent colonoscopy. It is unclear if these inflammatory changes 
are related to diverticulitis versus this foreign body. There is 
no intraperitoneal free air. "

His colonoscopy on ___ was notable for polyps in the distal 
descending colon and sigmoid colon which were removed.  
Otherwise the colonoscopy was normal to the cecum.

ROS: +fever/chills/abdominal pain as above.
Otherwise ROS negative including CP, palpitations, SOB, cough, 
URI sx, constipation/diarrhea, urinary frequency or dysuria, 
focal motor deficits, HA, other neuro sx, skin changes
 
Past Medical History:
HIV - Dx ___ Has had CD4 as low as 60; Has had Extensive 
h/o STDs including genital herpes, anal warts, GC, syphilis and 
chlamydia. Also hospitalized at ___ in ___ for disseminated 
zoster. ___: Bactrim prophylaxis
--> rash; switched to Dapsone. Now f/b ___. Stable 
counts/ VL;  
ABDOMINAL PAIN    
ADRENAL MASS   
6mm, left ___, incidental finding; reimaging at 6 mos in 
___ stable
and c/w likley adenoma, f/u CT ___ with stable L adrenal 
ANAL WARTS   
HIP PAIN h/o labral tear and mild dysplasia R hip s/p 
arthroscopic repair
HSV genital recurrent, prn acyclovir 
HYPERCHOLESTEROLEMIA   
HYPERLIPASEMIA   
HYPOANDROGENISM   
KNEE PAIN   
LIPOMA   
LOW BACK PAIN   
OSA  mild OSA by sleep study ___ 
PLEURAL TUMOR   ___- Benign Mesothelioma, excised (VATS 
___, no complic) 
 

 
Social History:
___
Family History:
brother - localized melanoma

 
Physical Exam:
T 98.2  (T 100 in ED), 126/81  HR 66   RR 14  95%RA
comfortable appearing, NAD
anicteric, MMM
neck supple
RRR
Lungs clear bilaterally
Abd soft, nondistended, very minimal tenderness to palpation 
right side (middle and RUQ), no guarding, no rebound
Extrem: no edema
Neuro: oriented x 3, face symmetric, moving all extremities well
Psych: pleasant, fluent speech

Discharge Exam:
PHYSICAL EXAM: 
VITAL SIGNS: 98.5 99/55 60 18 98% on RA 
GEN: NAD
EYES: anicteric
ENT: MMM
CV: Normal rate, regular rhythm
PULM:  CTAB
GI: Soft, mild distension, minimal tenderness with palpation of
the LLQ
SKIN: Erythema, blanching over the chest

 
Pertinent Results:
___ 12:37AM   WBC-9.0# RBC-4.21* HGB-13.9 HCT-40.4 MCV-96 
MCH-33.0* MCHC-34.4 RDW-12.9 RDWSD-45.0
___ 12:37AM   NEUTS-64.1 ___ MONOS-10.0 EOS-2.1 
BASOS-0.6 IM ___ AbsNeut-5.74 AbsLymp-2.05 AbsMono-0.90* 
AbsEos-0.19 AbsBaso-0.05
___ 12:37AM   GLUCOSE-104* UREA N-18 CREAT-1.1 SODIUM-134 
POTASSIUM-4.5 CHLORIDE-105 TOTAL CO2-20* ANION GAP-14
___ 12:47AM   LACTATE-1.3

Blood cultures pending

Colonoscopy on ___:
Polyp in the distal descending colon (polypectomy, endoclip)
Polyp in the sigmoid colon (polypectomy)
Diverticulosis of the whole colon
Otherwise normal colonoscopy to cecum

CT abdomen/pelvis with contrast
IMPRESSION: 
  
  
1. Acute diverticulitis at the splenic flexure. 
2. No fluid collection or free air. 
3. Endoclip at the proximal descending colon relates to recent 
colonoscopy 
(placement on ___ per OMR).  This lies just distal to the 
inflamed segment 
and is unlikely related to the acute findings. 

 
Brief Hospital Course:
___ yo man with HIV (last CD 4 count 539 in ___ on HAART, OSA 
on CPAP who presents 3 days after a recent colonoscopy ___ 
___ with complaint of abdominal pain, distension, fever to 
101 at home.  CT scan notable for a focal area of inflammation 
near splenic flexure.

#Diverticulitis vs. post-polypectomy syndrome
- No signs/sx of perforation, abdomen benign, and pt appeared 
clinically well despite fever at home.  He was treated for 
diverticulitis with IV cipro/flagyl initially and transitioned 
to PO on discharge. He was seen by GI and they recommended ___ 
days of treatment. Hi diet was advanced and tolerated well. He 
did not have BRBPR or diarrhea on admission and was moving his 
bowels normally. He has follow-up with Dr. ___ day 
after discharge (___). He was discharged with 13 days of 
Cipro/Flagyl. 

CHRONIC ISSUES:
#HIV, asymptomatic, CD 4 count 539 in ___

#Hyperlipidemia
statin held on admission; resumed upon discharge

#OSA - continue CPAP
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO BID 
2. Atorvastatin 10 mg PO DAILY 
3. Amphetamine-Dextroamphetamine 10 mg PO DAILY: PRN ADHD 
4. Complera (emtricitab-rilpivirine-tenofov) 200-25-300 mg oral 
DAILY 
5. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
6. Pregabalin 100 mg PO DAILY 
7. tadalafil 20 mg oral DAILY: PRN 
8. AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal DAILY 
9. TraZODone 50 mg PO QHS 
10. zaleplon ___ mg oral PRN night awakenings 
11. Aspirin 325 mg PO DAILY 
12. Cetirizine Dose is Unknown  PO DAILY 
13. Cromolyn Sodium (Nasal Inhalation) 1 SPRY NU TID:PRN nasal 
congestion 
14. melatonin 10 mg oral QHS 
15. Fish Oil (Omega 3) Dose is Unknown  PO DAILY 

 
Discharge Medications:
1. Pregabalin 100 mg PO DAILY 
2. TraZODone 50 mg PO QHS 
3. Acyclovir 400 mg PO BID 
4. Amphetamine-Dextroamphetamine 10 mg PO DAILY: PRN ADHD 
5. AndroGel (testosterone) 1 % (50 mg/5 gram) transdermal DAILY 
6. Aspirin 325 mg PO DAILY 
7. Atorvastatin 10 mg PO DAILY 
8. Cetirizine 10 mg PO DAILY 
9. Complera (emtricitab-rilpivirine-tenofov) 200-25-300 mg oral 
DAILY 
10. Cromolyn Sodium (Nasal Inhalation) 1 SPRY NU TID:PRN nasal 
congestion 
11. Fish Oil (Omega 3) 1000 mg PO DAILY 
12. Fluticasone Propionate NASAL 1 SPRY NU DAILY 
13. melatonin 10 mg oral QHS 
14. tadalafil 20 mg oral DAILY: PRN 
15. zaleplon ___ mg oral PRN night awakenings 
16. Ciprofloxacin HCl 500 mg PO Q12H Duration: 13 Days 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*26 Tablet Refills:*0
17. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H Duration: 13 Days 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*39 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Diverticulitis
Adenomatous polyps

HIV

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted with abdominal pain and fever a few days after 
your recent colonoscopy.  CT scan showed possible 
diverticulitis, an inflammation or inflammation of diverticuli 
(small pouches in the colon wall).  You were treated with IV 
antibiotics that have now been transitioned to oral.  Please 
continue to take these antibiotics as prescribed for a total of 
two weeks. 

As you may recall polyps were removed during your recent 
colonoscopy.  Pathology shows that the polyps show "adenomas". 
There was no cancer in the polyps. However, adenomatous  polyps 
are the type of polyps that can turn into cancer if not removed. 
 Your polyps were removed.  You may develop more adenomatous 
polyps in the future and therefore you should continue to 
undergo routine colorectal screening.  

Given the number and size of polyps, your next colonoscopy 
should
be performed in ___ years or sooner if you develop a change in 
your
bowel habits or rectal bleeding. 
 
Followup Instructions:
___